US07238714B2
Step 1. Methyl 5-chloro-2-(3-chlorophenoxy)benzoate
The title compound was prepared according to the procedure described in step 1 of Example 67 from methyl 5-chloro-2-fluorobenzoate and 3-chlorophenol: 1H-NMR (CDCl3) δ 7.92 (1H, d, J=2.8 Hz), 7.46 (1H, dd, J=8.8, 2.8 Hz), 7.25–6.80 (5H, m), 3.81 (3H, s).

reactant | methyl 5-chloro-2-fluorobenzoate | ClC=1C=CC(=C(C(=O)OC)C1)F | C8H6ClFO2
reactant | 3-chlorophenol | ClC=1C=C(C=CC1)O | C6H5ClO
product | Methyl 5-chloro-2-(3-chlorophenoxy)benzoate | ClC=1C=CC(=C(C(=O)OC)C1)OC1=CC(=CC=C1)Cl | C14H10Cl2O3
